.SUBCKT POTDrive 1 2 3 PARAMS: VALUE=500K SET=1.0
    RT 1 2 {VALUE*(1-SET)+.001}
    RB 2 3 {VALUE*SET+.001}
.ENDS

.SUBCKT POTTone 1 2 3 PARAMS: VALUE=20K SET=0.1
    RT 1 2 {VALUE*(1-SET)+.001}
    RB 2 3 {VALUE*SET+.001}
.ENDS

.SUBCKT POTVolume 1 2 3 PARAMS: VALUE=100k SET=1.0
    RT 1 2 {VALUE*(1-SET)+.001}
    RB 2 3 {VALUE*SET+.001}
.ENDS
